US08222416B2
A solution of N,N-dimethyl-3-(3-methyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)but-1-enyl)benzenamine (1.6 g, 5.2 mmol) in methanol (40 mL) and tetrahydrofuran (40 mL) was treated with 10% palladium on carbon (320 mg). The reaction was stirred for 16 h at 25° C. under a balloon filled with hydrogen gas. At this time, the reaction mixture was filtered through a pad of celite and washed with tetrahydrofuran (2×20 mL). The filtrate was concentrated in vacuo. Silica gel column chromatography (30 g, petroleum ether/ethyl acetate 8:1) afforded N,N-dimethyl-3-(3-methyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)butyl)benzeneamine (1.2 g, 75%) as a yellow oil: 1H NMR (300 MHz, CDCl3) δ ppm 9.54 (br. s., 1H), 8.14 (d, 1H, J=4.5 Hz), 7.78 (d, 1H, J=7.8 Hz), 7.15 (t, 1H, J=7.2 Hz), 7.03 (dd, 1H, J1=7.8 Hz, J2=4.8 Hz), 6.64-6.57 (m, 3H), 6.30 (s, 1H), 4.12 (t, 1H, J=8.1 Hz), 2.89 (s, 6H), 2.09-1.81 (m, 2H), 1.61-1.52 (m, 1H), 0.96 (s, 3H), 0.93 (s, 3H).

reactant | N,N-dimethyl-3-(3-methyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)but-1-enyl)benzenamine | 5.2 mmol, 1.6 g | CN(C1=CC(=CC=C1)C(=CC(C)C)C1=CC=2C(=NC=CC2)N1)C | C20H23N3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 40 mL | CO | CH4O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 320 mg | [Pd] | Pd
product | N,N-dimethyl-3-(3-methyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)butyl)benzeneamine | 1.2 g, 75% | CN(C1=CC(=CC=C1)C(CC(C)C)C1=CC=2C(=NC=CC2)N1)C | C20H25N3
